US03943114
A one-gallon autoclave, fitted with a stirrer, is charged with 1684 parts (8.38 moles) of N-(1,1-dimethyl-3-oxobutyl)-3-methoxypropionamide, 762 parts (16.9 moles) of dimethylamine, 1.5 parts of platinum oxide and 15 parts of dimethylammonium perchlorate. The autoclave is pressurized with hydrogen to 750 psi., and stirring is begun. Hydrogen pressure is periodically restored to 850-900 psi. and stirring is continued until hydrogen uptake has ceased. Sodium bicarbonate, 10 parts, is added to the mixture which is then stripped, acidified, extracted with chloroform, made alkaline and again extracted with chloroform as in Example 1. The chloroform extract from the alkaline solution is stripped and distilled, and the product, N-(1,1-dimethyl-3-dimethylaminobutyl)-3-methoxypropionamide, is obtained boiling at 108°C./0.9 mm. The yield is 1418.6 parts, or 73.6% of the theoretical amount.

reactant | N-(1,1-dimethyl-3-oxobutyl)-3-methoxypropionamide | 8.38 moles | CC(CC(C)=O)(C)NC(CCOC)=O | C10H19NO3
reactant | dimethylamine | 16.9 moles | CNC | C2H7N
reactant | dimethylammonium perchlorate | Cl(=O)(=O)(=O)[O-].C[NH2+]C
reactant | hydrogen | [H][H] | H2
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | platinum oxide | [Pt]=O
product | N-(1,1-dimethyl-3-dimethylaminobutyl)-3-methoxypropionamide | CC(CC(C)N(C)C)(C)NC(CCOC)=O | C12H26N2O2
